* Z:\mnt\design.r\spice\examples\3537.asc
XU1 NC_01 N002 0 IN NC_02 IN NC_03 IN N003 N004 OUT2 OUT1 OUT1 N001 0 NC_04 LTC3537
V1 IN 0 1.5
L1 IN N001 2.2µ Rpar=2K
R1 IN N002 665K
R2 N002 0 1Meg
R3 OUT1 N003 1.74Meg
R4 N003 0 1Meg
C1 OUT1 0 4.7µ
R5 OUT2 N004 2.05Meg
R6 N004 0 511K
C2 OUT2 0 1µ
Rload1 OUT1 0 33
Rload2 OUT2 0 30
.tran 400u startup
.lib LTC3537.sub
.backanno
.end
